US04801705
(B) 2-Amino-N-(3,4-dihydroxyphenyl)acetamide
To a solution of 26.2 g (76.2 mmol) of [2-[(3,4-dimethoxyphenyl)amino]-2-oxoethyl]carbamic acid in 1 liter of absolute dichloromethane was added dropwise at -60° C. 63.1 g of boron tribromide. After stirring overnight at room temperature, 180 ml of water was added at 0° C. The resulting precipitate was filtered off and dried in vacuo. To a solution of 26.1 g of crude 2-amino-N-(3,4-dihydroxyphenyl)acetamide hydrobromide salt in 600 ml of methanol was added 8 ml of concentrated hydrochloric acid and the mixture was refluxed for 1 hour. Evaporation to dryness yielded 16.5 g of the hydrobromide salt of 2-amino-N-(3,4-dihydroxyphenyl)acetamide. To a solution of 15.4 g of 2-amino-N-(3,4-dihydroxyphenyl)acetamide hydrobromide salt in 175 ml of water was added sodium bicarbonate until the pH reached 6.7. The resulting precipitate was filtered off with suction and dried in vacuo; yield: 10.5 g.

reactant | 2-amino-N-(3,4-dihydroxyphenyl)acetamide hydrobromide salt | 15.4 g | Br.NCC(=O)NC1=CC(=C(C=C1)O)O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 175 ml | O | H2O
product | 2-Amino-N-(3,4-dihydroxyphenyl)acetamide | NCC(=O)NC1=CC(=C(C=C1)O)O | C8H10N2O3
